US07122627B2
Pinacol (1-chloroethyl)boronate.
A 250 mL round bottom flask is charged with THF (60 mL) and CH2Cl2 (2.63 mL, 41.0 mmol). The solution was cooled to −100° C. with a liquid nitrogen/methanol/H2O bath. n-BuLi (1.6 N in hexanes, 25.7 mL) was added slowly over the course of 1 h. The resulting solution was stirred for an additional 45 min at −100° C. Pinacol methyl boronate, dissolved in THF (40 mL), was added and the solution was stirred overnight while warming to room temperature. The THF was removed by evaporation and hexanes (100 mL) were added. The resulting precipitate was filtered and the solution concentrated. The residue was distilled at 70° C., 2 mm Hg to yield 2.06 g (30%) of a clear colorless oil. 1H-NMR (CDCl3) δ 3.49 (q, 1H), 1.52 (d, 4H), 1.27 (s, 12H).

reactant | CH2Cl2 | 41.0 mmol, 2.63 mL | C(Cl)Cl | CH2Cl2
reactant | n-BuLi | 1.6 N, 25.7 mL | [Li]CCCC
reactant | Pinacol methyl boronate | CB(O)O.OC(C)(C)C(C)(C)O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Pinacol (1-chloroethyl)boronate | 2.06 g, 30% | ClC(C)B(O)O.OC(C)(C)C(C)(C)O | InChI=1S/C6H14O2.C2H6BClO2/c1-5(2,7)6(3,4)8;1-2(4)3(5)6/h7-8H,1-4H3;2,5-6H,1H3
